* R2R DAC 8-bit — DC Transfer Function Sweep
* CACE template: sweeps all 256 digital codes via .dc
*
* Conditions substituted by CACE:
*   CACE{vdd}          — supply voltage (V)
*   CACE{temperature}  — temperature (deg C)
*   CACE{corner}       — MOS process corner (mos_tt, mos_ff, mos_ss)
*   CACE{res_corner}   — resistor corner (res_typ, res_bcs, res_wcs)

* ── PDK Models ──────────────────────────────────────────────
.lib /data/Projects/chip/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib CACE{corner}
.lib /data/Projects/chip/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib CACE{res_corner}
.lib /data/Projects/chip/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ

* ── DUT ─────────────────────────────────────────────────────
.include CACE{DUT_path}

* ── Parameters ──────────────────────────────────────────────
.param vdd_val = CACE{vdd}

* ── Temperature ─────────────────────────────────────────────
.temp CACE{temperature}

* ── Power supplies ──────────────────────────────────────────
Vdd  vdd 0 {vdd_val}
Vss  vss 0 0

* ── Digital code input (swept 0–255 as a voltage) ──────────
Vcode code 0 0

* ── Bit extraction from code voltage ────────────────────────
* Each bit = vdd_val * ( floor(code/2^n) mod 2 )
Bb7 d7 0 V = vdd_val * (floor(v(code)/128) - 2*floor(v(code)/256))
Bb6 d6 0 V = vdd_val * (floor(v(code)/64)  - 2*floor(v(code)/128))
Bb5 d5 0 V = vdd_val * (floor(v(code)/32)  - 2*floor(v(code)/64))
Bb4 d4 0 V = vdd_val * (floor(v(code)/16)  - 2*floor(v(code)/32))
Bb3 d3 0 V = vdd_val * (floor(v(code)/8)   - 2*floor(v(code)/16))
Bb2 d2 0 V = vdd_val * (floor(v(code)/4)   - 2*floor(v(code)/8))
Bb1 d1 0 V = vdd_val * (floor(v(code)/2)   - 2*floor(v(code)/4))
Bb0 d0 0 V = vdd_val * (floor(v(code)/1)   - 2*floor(v(code)/2))

* ── Output load ─────────────────────────────────────────────
Rload vout 0 1meg

* ── DUT instantiation ──────────────────────────────────────
Xdac d7 d6 d5 d4 d3 d2 d1 d0 vout vdd vss r2r_dac_8bit

* ── DC sweep: code 0 → 255 ─────────────────────────────────
.control
  dc Vcode 0 255 1
  wrdata CACE{simpath}/CACE{filename}_CACE{N}.data v(vout)
  quit
.endc

.end
